US08530648B2
b) 2-(3-(bromomethyl)phenyl)-5-methyloxazole
To a stirred solution of (3-(5-methyloxazol-2-yl)phenyl)methanol (0.79 g, 4.13 mmol) in THF (15 mL), POBr3 (1.93 g, 6.61 mmol) was added in portions at 5° C. The reaction mixture was allowed to warm to rt and then heated at 60° C. for 4 h. The mixture was cooled to rt, poured into saturated aqueous NaHCO3 solution and extracted with TBME (2×). The combined organic layers were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash-column chromatography over silicagel (eluent: gradient 5%-40% ethyl acetate/heptane) to yield the title compound (0.88 g, 84%). [1H NMR (400 MHz, CHLOROFORM-d) ♀ ppm 8.01-8.07 (m, 1H), 7.93 (ddd, J=6.7, 2.1, 1.9 Hz, 1H), 7.39-7.47 (m, 2H), 6.85 (d, J=1.3 Hz, 1H), 4.53 (s, 2H), 2.41 (d, J=1.3 Hz, 3H); LCMS RtA=1.10, [M+H]+=252.1/254.1].

reactant | (3-(5-methyloxazol-2-yl)phenyl)methanol | 4.13 mmol, 0.79 g | CC1=CN=C(O1)C=1C=C(C=CC1)CO | C11H11NO2
reactant | POBr3 | 6.61 mmol, 1.93 g | P(=O)(Br)(Br)Br | Br3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(3-(bromomethyl)phenyl)-5-methyloxazole | 0.88 g, 84% | BrCC=1C=C(C=CC1)C=1OC(=CN1)C | C11H10BrNO
